US07101892B2
A solution of n-butyllithium in hexanes (7.48 ml, 11.22 mmol) was added dropwise to a stirred solution of ethyl phenyl sulphone (1.87 g, 11 mmol) in THF (25 ml) at −78° C. The mixture was stirred for 30 min. and 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone (1.5 ml, 12.43 mmol) was added followed by methyl crotonate (2.0 ml, 18.7 mmol). The reaction mixture was stirred for 90 min., quenched with sat. aqueous NH4Cl and extracted into ethyl acetate. The organic extract was dried (Na2SO4) and concentrated to give 4-benzenesulfonyl-3-methylpentanoic acid methyl ester as a 8:1 mixture of diastereoisomers that was dissolved in dichloromethane (20 ml) and cooled using a ice-bath. A solution of diisobutyl aluminium hydride in dichloromethane (50.0 ml, 50.0 mmol) was added and the reaction mixture was stirred at room temperature for 30 min. Ethyl acetate (10 ml) was added and the resulting mixture was poured into dichloromethane (200 ml) and cooled with an ice-bath. Water (4 ml) was added dropwise and the mixture was stirred for 30 min. dried over Na2SO4 for 30 min. filtered through a pad of Celite and concentrated. The residue was purified on silica gel (i-hexane-ethyl acetate) to give the title product.

reactant | n-butyllithium | C(CCC)[Li]
reactant | ethyl phenyl sulphone | 11 mmol, 1.87 g | C1(=CC=CC=C1)S(=O)(=O)CC | C8H10O2S
reactant | 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone | 12.43 mmol, 1.5 ml | CN1C(N(CCC1)C)=O | C6H12N2O
reactant | methyl crotonate | 18.7 mmol, 2.0 ml | C(\C=C\C)(=O)OC | C5H8O2
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | 4-benzenesulfonyl-3-methylpentanoic acid methyl ester | COC(CC(C(C)S(=O)(=O)C1=CC=CC=C1)C)=O | C13H18O4S
